US05852011
3-Nitroacetanilide
To 10 g (72 mmol) of 3-nitroaniline, 10 ml (106 mmol) of acetic anhydride were added, followed by stirring. White crystals were precipitated with exotherm. After stirring for 10 minutes, ice water was poured into the reaction mixture. The crystals were dissolved in chloroform, followed by washing successively with 1N hydrochloric acid, a saturated aqueous solution of sodium hydrogencarbonate and saturated saline. The organic layer was dried over anhydrous magnesium sulfate and then the solvent was distilled out under reduced pressure. The residue was washed with ethyl ether, whereby 11.6 g of white powder were obtained (yield: 89%).

reactant | 3-nitroaniline | 72 mmol, 10 g | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
reactant | acetic anhydride | 106 mmol, 10 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-Nitroacetanilide | 11.6 g, yield: 89% | CC(=O)NC1=CC(=CC=C1)[N+](=O)[O-] | C8H8N2O3
